US04782102
Into a 500 ml 3-necked flask equipped with a magnetic stirrer, heating mantle, thermometers, a 12 in. distilling column packed with 1/8 in. glass helices, addition funnel, distilling head and receiver was added 179.3 g (1.0 mole) of 3-aminopropyltrimethoxysilane. The flask was heated to 160° C. and from the (heated) addition funnel 160 g (2.16 moles) of t-butanol was slowly added with the simultaneous distillation of methanol/t-butanol to the receivers. The rate of addition of t-butanol was kept slow in order to maintain as high a flask temperature as possible (150°-170° C). Periodic sampling of the flask and lites for gas chromotograph analysis indicated that after 2.16 moles t-butanol had been added, approximately an 80% conversion of 3-aminopropyltrimethoxysilane to Compound A* had been achieved. Distillation of this material with four cuts (94°-100° C. at 20 mm Hg) produced 100 g of 94% pure aminopropyl-t-butoxydimethoxysilane (combined cuts 2, 3, 4). Cut one, enriched in 3-aminopropyltrimethoxysilane was 30 grams.

reactant | 3-aminopropyltrimethoxysilane | 1.0 mole, 179.3 g | NCCC[Si](OC)(OC)OC | C6H17NO3Si
reactant | methanol t-butanol | CO.C(C)(C)(C)O
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 2.16 moles | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 2.16 moles, 160 g | C(C)(C)(C)O | C4H10O
product | aminopropyl-t-butoxydimethoxysilane | 100 g, 94% | NCCC[Si](OC)(OC)OC(C)(C)C | C9H23NO3Si
